US08022075B2
2 Amino-5-bromobenzenethiol (35)
Potassium hydroxide (39.6 g) was dissolved at 0° C. in water (80 mL), and 2-amino-6-bromobenzothiazole (6.87 g) was added to the solution, followed by refluxing under heating overnight. The mixture was returned to room temperature, and then neutralized with 5N aqueous acetic acid solution. The precipitated crystals were recovered through filtration, washed with water, and dried under reduced pressure with heating, followed by recrystallization from isopropyl ether, to thereby yield the title compound (3.87 g).

reactant | Potassium hydroxide | 39.6 g | [OH-].[K+]
reactant | 2-amino-6-bromobenzothiazole | 6.87 g | NC=1SC2=C(N1)C=CC(=C2)Br | C7H5BrN2S
reactant | acetic acid | 5N | C(C)(=O)O | C2H4O2
solvent | water | 80 mL | O | H2O
product | Amino-5-bromobenzenethiol | 3.87 g | NC1=C(C=C(C=C1)Br)S | C6H6BrNS
